US07704996B2
To a solution of 4-[2-(6-chloro-2-cyanopyrimidin-4-yloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester (0.82 mmol) and C-spiro[3.5]non-7-ylmethylamine (0.86 mmol) in CH3CN (10 mL) is added K2CO3 (2.2 mmol) at room temperature. After stirring at 80° C. for 12 h, the reaction mixture is cooled to room temperature and diluted with AcOEt. The organic layer is washed twice with H2O and dried over MgSO4 and evaporated in vacuo to give a crude 4-(2-{2-cyano-6-[(spiro[3.5]non-7-ylmethyl)amino]pyrimidin-4-yloxy}ethyl)piperidine-1-carboxylic acid tert-butyl ester.

reactant | 4-[2-(6-chloro-2-cyanopyrimidin-4-yloxy)ethyl]piperidine-1-carboxylic acid tert-butyl ester | 0.82 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=NC(=NC(=C1)Cl)C#N | C17H23ClN4O3
reactant | C-spiro[3.5]non-7-ylmethylamine | 0.86 mmol | C1CCC12CCC(CC2)CN | C10H19N
reactant | K2CO3 | 2.2 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4-(2-{2-cyano-6-[(spiro[3.5]non-7-ylmethyl)amino]pyrimidin-4-yloxy}ethyl)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOC1=NC(=NC(=C1)NCC1CCC2(CCC2)CC1)C#N | C27H41N5O3
